US04988698
To a solution of 8-chloro-3,4-dihydro-2(1H)-quinolinone (5.08 g) in acetic anhydride (50 ml) was dropwise added a solution of nitric acid (d=1.40, 2.97 g) in acetic acid (20 ml) over the period of 10 minutes with stirring under ice-cooling. The mixture was stirred for 2 hours at ambient temperature and then for 6 hours at 50° C., and was allowed to stand for 60 hours at ambient temperature. The resulting precipitates were collected, washed with acetic anhydride and ethyl acetate successively and dried to give 8-chloro-6-nitro-3,4-dihydro-2(1H)-quinolinone (3.83 g).

reactant | 8-chloro-3,4-dihydro-2(1H)-quinolinone | 5.08 g | ClC=1C=CC=C2CCC(NC12)=O | C9H8ClNO
reactant | nitric acid | 2.97 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 8-chloro-6-nitro-3,4-dihydro-2(1H)-quinolinone | 3.83 g | ClC=1C=C(C=C2CCC(NC12)=O)[N+](=O)[O-] | C9H7ClN2O3
